US07989622B2
N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)pyridine-3-sulfonamide (100 mg, 0.21 mmol), prepared using procedures similar to those described above in Example 1, 2-(dimethylamino)ethanol (50 μL, 0.50 mmol) and dry DMF were combined and 60% NaH in oil (80 mg, 2.0 mmol) was added. The mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and purified by preparative HPLC to give N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)-6-(2-(dimethylamino)ethoxy)pyridine-3-sulfonamide (23 mg, 21%). 1H NMR (400 MHz, DMSO-d6) δ 8.78 (d, 1H), 8.73 (s, 1H), 8.38 (dd, 1H), 7.40 (dd, 1H), 7.31 (m, 3H), 7.14 (m, 2H), 6.85 (d, 1H), 6.12 (m, 1H), 4.56 (m, 2H), 3.76 (s, 6H), 3.43 (m, 2H), 2.77 (s, 6H). MS (EI) m/z for C25H28N6O5S: 525.1 (MH+).

reactant | N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)pyridine-3-sulfonamide | 0.21 mmol, 100 mg | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1C=NC=CC1 | C21H19N5O4S
reactant | 2-(dimethylamino)ethanol | 0.50 mmol, 50 μL | CN(CCO)C | C4H11NO
reactant | NaH | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)-6-(2-(dimethylamino)ethoxy)pyridine-3-sulfonamide | 23 mg, 21% | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1C=NC(=CC1)OCCN(C)C | C25H28N6O5S
